*  
* Diode Model Produced by Altium Ltd  
* Date:  4-May-2004 
*  
* Manufacturer: Renesas  
* Component Name: HDSP-501B  
*  
* Parameters derived from information available in data sheet.  
*
*                 cathode-e
*                 |  cathode-d
*                 |  |  common-anode
*                 |  |  |  cathode-c
*                 |  |  |  |  cathode-DP
*                 |  |  |  |  |  cathode-b
*                 |  |  |  |  |  |  cathode-a
*                 |  |  |  |  |  |  |  common-anode
*                 |  |  |  |  |  |  |  |  cathode-f
*                 |  |  |  |  |  |  |  |  |  cathode-g
*                 |  |  |  |  |  |  |  |  |  |  
.SUBCKT HDSP_501B 1  2  3  4  5  6  7  8  9  10

DA1  3  7  dHDSP_501B
DB1  3  6  dHDSP_501B
DC1  3  4  dHDSP_501B
DD1  3  2  dHDSP_501B
DE1  3  1  dHDSP_501B
DF1  3  9  dHDSP_501B
DG1  3 10  dHDSP_501B
DDP1 3  5  dHDSP_501B

DA2  8  7  dHDSP_501B
DB2  8  6  dHDSP_501B
DC2  8  4  dHDSP_501B
DD2  8  2  dHDSP_501B
DE2  8  1  dHDSP_501B
DF2  8  9  dHDSP_501B
DG2  8 10  dHDSP_501B
DDP2 8  5  dHDSP_501B

.MODEL dHDSP_501B D
+ (  
+    IS = 2.15137703E-17 
+    N  = 4.02940472 
+    RS = 16.32357710 
+    BV = 4.50000000 
+    IBV = 100u 
+ )  

.ENDS HDSP_501B